US08859580B2
(2R,6R,11S)-6,11-Dimethyl-8-(5-methyl-[1,3,4]oxadiazol-2-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester
(2R,6R,11S)-8-Hydrazinocarbonyl-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester (0.50 g) in (EtO)3CMe (2 mL) is heated in a microwave oven at 120° C. for 30 min. After cooling to room temperature, the mixture is concentrated under reduced pressure and the residue is purified by HPLC on reversed phase (MeCN/H2O/NH4OH) to give the title compound.

reactant | (2R,6R,11S)-8-Hydrazinocarbonyl-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)([C@@H]2C)C)C=C(C=C3)C(=O)NN | C20H29N3O3
reactant | (EtO)3CMe | 2 mL | C(OCC)(OCC)(OCC)C | C8H18O3
product | (2R,6R,11S)-6,11-Dimethyl-8-(5-methyl-[1,3,4]oxadiazol-2-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)([C@@H]2C)C)C=C(C=C3)C=3OC(=NN3)C | C22H29N3O3
